US06951859B2
To a solution of 2-methyl-5-nitro-4-fluorobenzoic acid (1.77 g, 8.9 mmol, for preparation see Coll. Czech. Chem. Commun. 1977, 42, 2001) in ethanol (15 mL) was added 10% Pd/C (50 mg) and the mixture was subjected to hydrogenation under 30 psi of pressure. After 3 h, hydrogen was removed and the mixture was filtered and the filtrate was concentrated in vacuo to afford 2-methyl-5-amino-4-fluorobenzoic acid (1.45 g, 97%). LC/MS; (M+H)+=170.

reactant | 2-methyl-5-nitro-4-fluorobenzoic acid | 8.9 mmol, 1.77 g | CC1=C(C(=O)O)C=C(C(=C1)F)[N+](=O)[O-] | C8H6FNO4
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 2-methyl-5-amino-4-fluorobenzoic acid | 1.45 g, 97% | CC1=C(C(=O)O)C=C(C(=C1)F)N | C8H8FNO2
